US05864039
4-Amino-N-(2-(3-tert-butoxycarbonylaminomethylpyrrolidin-1-yl)-ethyl)-5-chloro-2-methoxybenzamide (0.97 g) as starting compound was reacted and treated in the same manner as in Example 67 using 4-amino-5-chloro-2-methoxybenzoic acid (0.50 g) to give 4-amino-N-(1-(2-(4-amino-5-chloro-2-methoxybenzoylamino)ethyl)pyrrolidin-3-ylmethyl)-5-chloro-2-methoxybenzamide.

reactant | 4-Amino-N-(2-(3-tert-butoxycarbonylaminomethylpyrrolidin-1-yl)-ethyl)-5-chloro-2-methoxybenzamide | 0.97 g | NC1=CC(=C(C(=O)NCCN2CC(CC2)CNC(=O)OC(C)(C)C)C=C1Cl)OC | C20H31ClN4O4
reactant | 4-amino-5-chloro-2-methoxybenzoic acid | 0.50 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
product | 4-amino-N-(1-(2-(4-amino-5-chloro-2-methoxybenzoylamino)ethyl)pyrrolidin-3-ylmethyl)-5-chloro-2-methoxybenzamide | NC1=CC(=C(C(=O)NCC2CN(CC2)CCNC(C2=C(C=C(C(=C2)Cl)N)OC)=O)C=C1Cl)OC | C23H29Cl2N5O4
